US07897627B2
a) Step 1: ((R)-3-Amino-piperidin-1-yl)-(2,6-dimethoxy-phenyl)-methanone
A mixture of 0.143 g (0.786 mmol) 2,6-dimethoxybenzoic acid (commercially available), 0.15 g (0.749 mmol) (R)-piperidin-3-yl-carbamic acid tert-butyl ester (commercially available), 0.264 g (0.824 mmol) TBTU and 0.145 g (1.123 mmol) DIPEA in 9.2 mL DMF was stirred at room temperature over night. DMF was evaporated and the residue was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product containing fractions were evaporated and the residue was treated with 4N HCl in dioxane and stirred at 50° C. over night. The mixture was evaporated to dryness and treated with NaHCO3 aq. and DCM. The organic layer was separated, dried with MgSO4 and evaporated to yield 22 mg (11%) of the title compound as colourless oil. (MH+) 265.1.

reactant | 2,6-dimethoxybenzoic acid | 0.786 mmol, 0.143 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | (R)-piperidin-3-yl-carbamic acid tert-butyl ester | 0.749 mmol, 0.15 g | C(C)(C)(C)OC(N[C@H]1CNCCC1)=O | C10H20N2O2
reactant | TBTU | 0.824 mmol, 0.264 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.123 mmol, 0.145 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 9.2 mL | CN(C)C=O | C3H7NO
product | ((R)-3-Amino-piperidin-1-yl)-(2,6-dimethoxy-phenyl)-methanone | 22 mg, 11% | N[C@H]1CN(CCC1)C(=O)C1=C(C=CC=C1OC)OC | C14H20N2O3
